Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Lidoderm / mycophenolate mofetil
 
Attending: ___.
 
Chief Complaint:
Direct admit for HD inititiation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old ___ woman with 
known PMH ESRD ___
lupus nephritis, autoimmune hepatitis (Followed by Dr. ___,
HTN, osteoporosis, colon cancer s/p colectomy ___ years ago
with ostomy, who presented as a direct admission for initiation
of dialysis.  Of note, patient was initially on home hospice but
had a change of heart and wish for trial of hemodialysis to
improve her symptoms.  She had tunneled HD line placed at AV 
care
___ and then had three runs of trial HD, followed by one run 
of full HD on ___.
 
Past Medical History:
- remote HepB (positive anticore, positive anti-surface) and no 
overt viral replication (negative surface ag, negative VL)
- remote ___ infection
- distal rectal cancer s/p resection
- recurrent adenocarcinoma of transverse colon s/p complete 
colectomy and end ileostomy ___ c/b SBO and ischemic stoma 
requiring repeat surgery
- autoimmune hepatitis
- advanced osteoporosis 
- multiple compression fractures s/p vertebro- and kyphoplasty
- remove history of active pulmonary TB ___ yrs ago
- history of CMV infection, EBV infection (After steroids 
started) and equivocal toxo titers in past
- MCTD: various SLE/Sjogren's manifestations
- GERD
- Blurred vision, secondary to cataracts.

PSHx:
1.  Liver biopsy ___. Mild portal and lobular mononuclear 
inflammation with rare plasma cells (grade 1).  The features are 
those of a chronic mildly-active hepatitis such as due to a 
viral, autoimmune, or drug-induced injury.
2.  Liver biopsy ___. Minimal portal and lobular mononuclear 
inflammation (Grade 1 inflammation).
3.  Bone marrow biopsy ___: Mature erythroid dominant 
cellular marrow with mild dyspoiesis. There is no evidence of 
lymphoma air infection. Flow cytometry negative for lymphoma.
4. Lymph node biopsy right axillary ___. Atypical 
lymphadenopathy with interfollicular immunoblastic reaction. No 
evidence of lymphoma.
5. Transverse colon ___. Adenocarcinoma.
6. S.P Colon resection.
7. S/P L3 and T10 vertebroplasty.
 
Social History:
___
Family History:
No family history of colon cancer or liver disease. No family hx 
of cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:98.8, 193/73, 82, 18, 99% Ra
GENERAL: Alert and oriented, no acute distress, chronically
ill-appearing, cachectic
HEENT: PERRL, EOMI, anicteric, pure dentition, MMM
NECK: No appreciable JVD
CARDIAC: RRR, + S1/2 present, no M/R/G, tunneled line /C/D/I
LUNGS: CTAB, no W/R/R
ABDOMEN: Ostomy bag with stool and gas, nontender, nondistended
EXTREMITIES: No lower extremity edema
SKIN: No obvious rashes
NEUROLOGIC: CN2-12 intact. Moving all 4 limbs spontaneously. ___
strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
VSS, mild hypertension to 170s systolic
GENERAL: NAD
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi
ABD: ostomy bag in place , 3mm poly within stoma,  no tenderness 
to
palpation, bowel sounds present in all 4 quadrants
EXT: Warm, well perfused, no lower extremity edema   
NEURO: Alert, oriented, 
SKIN: No significant rashes 
 
 
Pertinent Results:
INITIAL LABS:
============
___ 02:30PM   PLT COUNT-262
___ 02:30PM   WBC-6.9 RBC-3.09* HGB-9.2* HCT-28.4* MCV-92 
MCH-29.8 MCHC-32.4 RDW-16.4* RDWSD-54.5*
___ 02:30PM   HCV Ab-NEG
___ 02:30PM   HBsAg-NEG HBs Ab-Borderline HBc Ab-POS* IgM 
HBc-NEG
___ 02:30PM   CALCIUM-7.3* PHOSPHATE-10.0* MAGNESIUM-1.5*
___ 02:30PM   estGFR-Using this
___ 02:30PM   GLUCOSE-101* UREA N-70* CREAT-7.7* 
SODIUM-134* POTASSIUM-5.5* CHLORIDE-109* TOTAL CO2-8* ANION 
GAP-17
___ 08:15PM   CALCIUM-7.6* PHOSPHATE-4.5 MAGNESIUM-1.5*
___ 08:15PM   GLUCOSE-124* UREA N-36* CREAT-4.7*# 
SODIUM-134* POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-19* ANION 
GAP-11
___ 10:14PM URINE  MUCOUS-RARE*
___ 10:14PM URINE  HYALINE-9*
___ 10:14PM URINE  RBC-4* WBC-13* BACTERIA-FEW* YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 10:14PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-600* 
GLUCOSE-150* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:14PM URINE  COLOR-Straw APPEAR-Clear SP ___

PERTINENT LABS:
===============
___ 08:00AM BLOOD ___ PTT-150* ___
___ 02:30PM BLOOD HBsAg-NEG HBsAb-Borderline HBcAb-POS* IgM 
HBc-NEG
___ 02:30PM BLOOD HCV Ab-NEG

MICRO:
======
___ 10:14 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
========
PORTABLE ABDOMEN ___
IMPRESSION:  
No radiographic evidence of bowel obstruction. 

CHEST (PA & LAT) ___
IMPRESSION:  
Right-sided ___ catheter projects to the cavoatrial 
junction. Moderate 
cardiomegaly, the cardiac silhouette has enlarged since the 
prior study.  
There is increased kyphosis of the thoracolumbar spine.  There 
is also 
evidence of remodeling of the sternum with a fracture involving 
the sternum, age indeterminate.  There are no pleural effusions. 
 No consolidations. Calcification in the right upper lobe are 
unchanged.  No pneumothorax. 

DISCHARGE LABS:
===============

___ 07:00AM BLOOD WBC-8.8 RBC-2.88* Hgb-8.5* Hct-27.0* 
MCV-94 MCH-29.5 MCHC-31.5* RDW-14.6 RDWSD-50.0* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-87 UreaN-53* Creat-6.1*# Na-133* 
K-5.3 Cl-100 HCO3-22 AnGap-11
___ 07:00AM BLOOD Calcium-8.0* Phos-4.0 Mg-1.5*
 
Brief Hospital Course:
BRIEF SUMMARY:
==============
___ is a ___ year old ___ woman with 
known ___ ESRD ___ lupus nephritis, autoimmune hepatitis 
(Followed by Dr. ___, HTN, osteoporosis, colon cancer s/p 
colectomy ___ years ago with ostomy, who presented as a 
direct admission for initiation
of dialysis.  Of note, patient was initially on home hospice 
but
had a change of heart and wished for trial of hemodialysis to
improve her symptoms.  She had a tunneled HD line placed at ___ 
___
___ and then presented for first session of HD that she
tolerated well. No fluid was taken off during this process. 
Patient had trial runs of HD ___, then a full run on ___ 
(___). She tolerated HD without any difficulty. Had elevated 
blood pressure throughout course relieved by HD runs. 
Antihypertensive medications were started and uptitrated during 
hospitalization for improved control. Also described subacute 
abdominal pain w/ n/v without change in her ostomy output. 

TRANSITIONAL ISSUES:
==================
[] GI follow-up for ostomy management, evaluation of possible 
polyp on stoma
[] Could benefit from nutrition consult for concern for 
malnutrition
[] Amlodipine added to home blood pressure regimen. She would 
benefit from further titration as outpatient

ACUTE ISSUES:
============
#ESRD now on HD
#MCTD, SLE
#PRGN ___ lupus nephritis
#Metabolic disarray
#HTN
Patient was initially on home hospice and against initiation of 
HD, then had a changed mind and had tunneled ___ placed at 
AV care on ___ had trial runs of HD, which 
were tolerated well, then on ___ had full run which was 
also well tolerated. She remained inpt for monitoring through 
___ with planned initiation of HD as an outpt on ___. A PPD 
was read during her stay as was a CXR for assessment of TB, 
both were negative. She was given calcium acetate daily. Home 
immunosuppression was continued with hydroxychloroquine, 
prednisone, mycophenelate mofetil. She was also continued on 
home labetalol 600mg BID and torsemide 40mg for hypertension 
however she had intermittent hypertension with systolic blood 
pressure as high as 200s for which amlodipine was added on ___. 

#Abdominal pain
#Nausea/vomiting
#Colon cancer s/p colectomy
Patient described some irritation at ostomy site, predominantly 
itching and concern that there was a "tumor" in her ostomy. She 
had several areas of irritation and erythema with some tissue 
friability at her stoma site likely related to her stoma coming 
in and out however cannot rule out small polyp. She was 
reassured and can continue to discuss with her PCP regarding 
need for further GI evaluation. 

#Chronic low back pain: has been ongoing for months without red 
flag symptoms (no fevers, weakness, numbness). Given Tylenol 
for pain. 

CHRONIC ISSUES:
===============
#HFpEF
Euvolemic on examination, continued home torsemide and started 
HD

#Chronic normocytic anemia
___ CKD, EPO with HD as managed by nephrology

#GERD
Continued home PPI

#Autoimmune hepatitis
Followed outpatient by hepatology, monitored

[x]Patient seen and examined on day of discharge. >30 minutes 
spent on discharge planning and care coordination on day of 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. PredniSONE 5 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
4. Sodium Bicarbonate 1300 mg PO BID 
5. ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) BID 
6. Simethicone 80 mg PO TID:PRN abdominal bloating, gas pain 
7. Hydroxychloroquine Sulfate 200 mg PO DAILY 
8. Labetalol 600 mg PO BID 
9. Cyclobenzaprine 5 mg PO TID:PRN pain 
10. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID 
11. darbepoetin alfa in polysorbat 60 mcg/0.3 mL injection 
MONTHLY 
12. Mycophenolate Mofetil 500 mg PO BID 
13. Torsemide 40 mg PO DAILY 
14. Entecavir 0.5 mg PO 1X/WEEK (MO) 
15. OxyCODONE (Immediate Release) 10 mg PO Q6H 
16. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
17. Calcium Acetate 667 mg PO TID W/MEALS 
18. Omeprazole 20 mg PO DAILY 
19. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  amLODIPine 5 mg PO DAILY  
3.  Calcium Acetate 667 mg PO TID W/MEALS  
4.  Cyclobenzaprine 5 mg PO TID:PRN pain  
5.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID  
6.  darbepoetin alfa in polysorbat 60 mcg/0.3 mL injection 
MONTHLY  
7.  Entecavir 0.5 mg PO 1X/WEEK (MO)  
8.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
9.  ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) BID  
10.  Labetalol 600 mg PO BID  
11.  Mycophenolate Mofetil 500 mg PO BID  
12.  Omeprazole 20 mg PO DAILY  
13.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
14.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
15.  OxyCODONE (Immediate Release) 10 mg PO Q6H  
16.  PredniSONE 5 mg PO DAILY  
17.  Simethicone 80 mg PO TID:PRN abdominal bloating, gas pain  
18.  Torsemide 40 mg PO DAILY  
19.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
ESRD w/ initiation of HD
Hypertension
Abdominal pain
Nausea/vomiting
Colon cancer s/p ostomy

SECONDARY DIAGNOSIS:
MCTD
SLE
PRGN ___ lupus nephritis
Metabolic disarray
HFpEF
Normocytic anemia
GERD
Autoimmune hepatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You needed a catheter placed so that you can get dialysis.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You had a catheter placed so that you can get dialysis
- You had four runs of dialysis

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments. You will have 
dialysis on ___ and ___ from now on. Please 
contact your primary care provider, ___, at ___ 
to schedule an appointment within 1 week of your hospital stay. 
Your primary care provider can also help you get an appointment 
with a GI doctor for help with your ostomy.

It was a pleasure taking care of you, and we wish you all the 
best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___